### PR TITLE
[Merged by Bors] - feat(Data/ENat): `sSup_eq_zero` and `sInf_eq_zero`

### PR DESCRIPTION
**Pull request by Rida-Hamadani**
To make working with `ENat` easier.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ENat/Lattice.lean [hunk 1]
```diff
@@ -45,4 +45,27 @@ lemma coe_iSup : BddAbove (range f) → ↑(⨆ i, f i) = ⨆ i, (f i : ℕ∞)
...
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  · rw [← bot_eq_zero, sSup_eq_bot, bot_eq_zero] at h
+    by_cases h' : s = ∅
+    · apply Or.inr h'
+    · apply Or.inl
+      ext x
+      refine ⟨h x, fun hx ↦ ?_⟩
+      subst hx
+      obtain ⟨u, hu⟩ := nonempty_def.mp <| nonempty_iff_ne_empty.mpr h'
+      exact h u hu ▸ hu
```
[the remark this answers is not in the document]
Comment (Ruben-VandeVelde) [reply Mathlib/Data/ENat/Lattice.lean:60]: But then I found some even better ones:
```lean
-- Put in Mathlib.Order.CompletePartialOrder
lemma sSup_eq_bot' [CompleteLattice α] {s : Set α} : sSup s = ⊥ ↔ s = ∅ ∨ s = {⊥} := by
  rw [sSup_eq_bot, ← subset_singleton_iff_eq, subset_singleton_iff]

lemma ENat.sSup_eq_zero : sSup s = 0 ↔ s = ∅ ∨ s = {0} := by
  rw [← bot_eq_zero, sSup_eq_bot']
```
Note that I swapped the order on the RHS to match `subset_singleton_iff_eq`

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks!

File: Mathlib/Data/ENat/Lattice.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (Rida-Hamadani) [reply Mathlib/Data/ENat/Lattice.lean]: Awesome, thank you for the great review!

File: Mathlib/Order/CompletePartialOrder.lean [hunk 2]
```diff
@@ -82,3 +82,6 @@ end CompletePartialOrder
 instance CompleteLattice.toCompletePartialOrder [CompleteLattice α] : CompletePartialOrder α where
   sSup := sSup
   lubOfDirected _ _ := isLUB_sSup _
+
+lemma sSup_eq_bot' [CompleteLattice α] {s : Set α} : sSup s = ⊥ ↔ s = ∅ ∨ s = {⊥} := by
```
Comment (b-mehta) [inline Mathlib/Order/CompletePartialOrder.lean:86]: It seems like this lemma belongs in the same file as `sSup_eq_bot`. What do you think?

File: Mathlib/Data/ENat/Lattice.lean [hunk 3]
```diff
@@ -5,6 +5,7 @@ Authors: Yury Kudryashov
 -/
 import Mathlib.Data.Nat.Lattice
 import Mathlib.Data.ENat.Basic
+import Mathlib.Order.CompletePartialOrder
```
Comment (b-mehta) [inline Mathlib/Data/ENat/Lattice.lean:8]: With my other suggestion, I think you don't need to change the imports here...?

File: Mathlib/Data/ENat/Lattice.lean [hunk 4]
```diff
@@ -45,4 +46,13 @@ lemma coe_iSup : BddAbove (range f) → ↑(⨆ i, f i) = ⨆ i, (f i : ℕ∞)
 @[norm_cast] lemma coe_iInf [Nonempty ι] : ↑(⨅ i, f i) = ⨅ i, (f i : ℕ∞) :=
   WithTop.coe_iInf (OrderBot.bddBelow _)
 
+variable {s : Set ℕ∞}
+
+lemma sSup_eq_zero : sSup s = 0 ↔ s = ∅ ∨ s = {0} :=
+  sSup_eq_bot'
```
Comment (b-mehta) [inline Mathlib/Data/ENat/Lattice.lean:52]: How about having `sSup_eq_zero` mimicking `sSup_eq_bot`, and `sSup_eq_zero'` mimicking `sSup_eq_bot'`?

File: Mathlib/Order/CompletePartialOrder.lean (hunk 2 above)
Comment (Rida-Hamadani) [reply Mathlib/Order/CompletePartialOrder.lean]: I agree, this seems more correct.

File: Mathlib/Data/ENat/Lattice.lean [hunk 5]
```diff
@@ -45,4 +45,16 @@ lemma coe_iSup : BddAbove (range f) → ↑(⨆ i, f i) = ⨆ i, (f i : ℕ∞)
...
   WithTop.coe_iInf (OrderBot.bddBelow _)
 
+variable {s : Set ℕ∞}
+
+lemma sSup_eq_zero : sSup s = 0 ↔ ∀ a ∈ s, a = 0 :=
+  sSup_eq_bot
+
+lemma sInf_eq_zero : sInf s = 0 ↔ 0 ∈ s :=
+  ⟨fun h ↦ have ⟨_, h₁, h₂⟩  := (sInf_eq_bot.mp h) 1 (by decide)
+  lt_one_iff_eq_zero.mp h₂ ▸ h₁, inf_eq_bot_of_bot_mem⟩
```
Comment (b-mehta) [inline Mathlib/Data/ENat/Lattice.lean:55]:
```suggestion
  rw [←lt_one_iff_eq_zero]
  simp only [sInf_lt_iff, lt_one_iff_eq_zero, exists_eq_right]
```
imo this is cleaner, but up to you

**Review by b-mehta — APPROVED** [review]
bors d+
